US04278673
(a) 6-(1-Isovaleramidoethyl)-3-methyl-1,2,4-triazin-5(4H)-one
Hydrazine hydrate (100%, 78 ml, 80 g) in absolute ethanol (40 ml) was added with stirring over a period of 15 minutes to a solution of acetamidine hydrochloride (151 g) in absolute ethanol (1200 ml) cooled to 5°. The mixture was stirred for a further 10 minutes, then ethyl-3-isovaleramido-2-oxobutyrate [prepared by hydrolysis of the enol esters (535 g) as in Example 1(i)] in absolute ethanol (200 ml) was added and heated at 70°-80° with stirring for 20 hours. After cooling the mixture to room temperature, ammonium chloride was removed by filtration and the filtrate concentrated and diluted with ethyl acetate (250 ml) to precipitate the triazinone (94.0 g). The filtrate on standing deposited a second crop (6.7 g). Two recrystallisations from ethanol gave a sample of m.p. 224°-226°.

reactant | Hydrazine hydrate | 78 ml, 80 g | O.NN
reactant | acetamidine hydrochloride | 151 g | Cl.C(C)(=N)N
reactant | ethyl-3-isovaleramido-2-oxobutyrate | C(C)OC(C(C(C)NC(CC(C)C)=O)=O)=O | C11H19NO4
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 1200 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-(1-Isovaleramidoethyl)-3-methyl-1,2,4-triazin-5(4H)-one | C(CC(C)C)(=O)NC(C)C=1C(NC(=NN1)C)=O | C11H18N4O2
